US04159375
To a solution of 22.8 g. of 3-methylthio-5-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine in a mixture of 30 ml. of methanol and 35 ml. of tetrahydrofuran is added 4.84 ml. of 95% hydrazine. The mixture is refluxed for 48 hours, cooled and the solid is collected by filtration giving 3-hydrazino-5-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine as yellow needles.

reactant | 3-methylthio-5-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine | CSC=1N=NC=C(N1)C=1C=C(C=CC1)C(F)(F)F | C11H8F3N3S
reactant | methanol | CO | CH4O
reactant | hydrazine | NN | H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-hydrazino-5-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine | N(N)C=1N=NC=C(N1)C=1C=C(C=CC1)C(F)(F)F | C10H8F3N5
